US06992085B2
Step A: 1-(4-Bromobutoxy)-2,3,4-trimethoxybenzene
The procedure is as for Example 53, Step A, using as substrate 2,3,4-trimethoxyphenol and 1,4-dibromobutane.

reactant | 2,3,4-trimethoxyphenol | COC1=C(C=CC(=C1OC)OC)O | C9H12O4
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 1-(4-Bromobutoxy)-2,3,4-trimethoxybenzene | BrCCCCOC1=C(C(=C(C=C1)OC)OC)OC | C13H19BrO4
